US05131911
b/ Preparation of 4-benzyloxy-5-methoxy-2-methylindole
This compound is obtained according to the operating method described in Example 2b, in which the 2-benzyloxy-3-ethoxy-6,β-dinitromethylstyrene is replaced with 2-benzyloxy-3-methoxy-6,β-dinitromethylstyrene. A pale yellow powder (yield=40%, m.p.=74°-75° C.) is obtained.

reactant | 2-benzyloxy-3-ethoxy-6,β-dinitromethylstyrene | C(C1=CC=CC=C1)OC1=C(C=CC[N+](=O)[O-])C(=CC=C1OCC)C[N+](=O)[O-] | C19H20N2O6
reactant | 2-benzyloxy-3-methoxy-6,β-dinitromethylstyrene | C(C1=CC=CC=C1)OC1=C(C=CC[N+](=O)[O-])C(=CC=C1OC)C[N+](=O)[O-] | C18H18N2O6
product | 4-benzyloxy-5-methoxy-2-methylindole | yield=40% | C(C1=CC=CC=C1)OC1=C2C=C(NC2=CC=C1OC)C | C17H17NO2
